US06469176B1
Preparation of 3-Bromo-2-methyl-6-methylsulfonylbenzaldoxime
A solution of 2.1 g (20 mmol) of n-butyl nitrite (97%) pure and 4 g (15 mmol) of 2,3-dimethyl-4-methylsulfonylbromobenzene in 50 ml of dimethylformamide is cooled to from −55 to −60° C., and a solution of 2.8 g (25 mmol) of potassium tert-butoxide in 35 ml of dimethylformamide is added dropwise at this temperature, over a period of 20 minutes. The reaction is monitored by HPLC. For work-up, initially 10 ml of water are added, and the pH is subsequently adjusted to 5-6 using approximately 9 ml of glacial acetic acid. The reaction mixture is subsequently poured into 100 ml of ice-water, and the aqueous phase is extracted with methylene chloride. The organic phase is washed with sodium bicarbonate solution, dried over magnesium sulfate and concentrated. This gives 3.6 g of an oily crude product (90% pure according to HPLC) which can be purified by recrystallization from toluene.

reactant | n-butyl nitrite | 20 mmol, 2.1 g | N(=O)OCCCC | C4H9NO2
reactant | 2,3-dimethyl-4-methylsulfonylbromobenzene | 15 mmol, 4 g | CC1=C(C=CC(=C1C)S(=O)(=O)C)Br | C9H11BrO2S
reactant | potassium tert-butoxide | 25 mmol, 2.8 g | CC(C)([O-])C.[K+]
reactant | water | 10 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | approximately 9 ml | C(C)(=O)O | C2H4O2
product | 3-Bromo-2-methyl-6-methylsulfonylbenzaldoxime | BrC=1C(=C(C=NO)C(=CC1)S(=O)(=O)C)C | C9H10BrNO3S
